US07598391B2
Propane-2-sulfonic acid {1-[2-(3,3-dicyclohexyl-ureido)-thiazol-5-ylmethyl]-piperidin-4-yl}-amide
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (21 mg, 0.07 mmol), propane-2-sulfonic acid piperidin-4-yl amide hydrochloride (17 mg, 0.077 mmol) and sodium triacetoxyborohydride (19 mg, 0.09 mmol) to afford 4 mg (11%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.07 mmol, 21 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | propane-2-sulfonic acid piperidin-4-yl amide hydrochloride | 0.077 mmol, 17 mg | Cl.N1CCC(CC1)NS(=O)(=O)C(C)C
reactant | sodium triacetoxyborohydride | 0.09 mmol, 19 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | Propane-2-sulfonic acid {1-[2-(3,3-dicyclohexyl-ureido)-thiazol-5-ylmethyl]-piperidin-4-yl}-amide | 4 mg, 11% | C1(CCCCC1)N(C(NC=1SC(=CN1)CN1CCC(CC1)NS(=O)(=O)C(C)C)=O)C1CCCCC1 | C25H43N5O3S2
